Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.95766241696
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-0.999708883835
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[O:5][H:6]>>[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.07492166366
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.57657349509
[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],3.99331117151
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][O:10][H:11].[H:9],3.8785217040199993
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.46735732187
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-2.34063949188
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],0.72363737714
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][H:4],5.96446574359
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-4.1557702335
[C:1]#[C:2].[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9],-7.682000489069999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],7.47031399697
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])=[C:7]=[O:8],-1.61606713753
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.44927184809
[H:9].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8][H:9],-5.05173746989
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.76168700699
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-4.96952454102
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]=[O:3],0.768378975952
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([O:9])([H:10])[H:11],-1.01579582512
[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[C:7]2[O:8][C@:9]12[H:10]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][O:8][C:9][H:10],1.33235537891
[C:10]=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-3.54088290381
[C:1]#[C:2][C:3]#[C:4][C:6]([H:7])[O:8][H:9].[H:5]>>[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-2.86516220821
[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])=[O:5].[O:1](/[C:4]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[H:6],4.67980301
[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7][H:8].[H:9],4.74994963304
[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.890610762079
[H:16].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.98370978283
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6])[C:8]([H:9])([H:10])[H:11].[H:7],4.65805667848
[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],1.80761857927
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9]>>[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9].[H:1],3.97381911809
